US05686452
3.90 g of 63% sodium hydride was suspended in 60 ml of tetrahydrofuran, and 22.8 g of ethyl diethylphosphonoacetate dissolved in 100 ml of tetrahydrofuran was added dropwise to the suspension under water cooling. The mixture was stirred at the same temperature for 30 minutes. 13.58 g of 2-indanacetaldehyde dissolved in 100 ml of tetrahydrofuran was added dropwise to said mixture. The resulting mixture was stirred at the same temperature for 1 hour and further stirred at room temperature for 1 hour. The reaction mixture was poured into ice water and extracted with ethyl acetate. After the ethyl acetate layer was washed and dried, the solvent was removed. The residue was purified by silica gel column chromatography (hexane-ethyl acetate (20:1)) to obtain 19.22 g of ethyl 2-indanecrotonate.

reactant | sodium hydride | 3.90 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 22.8 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 2-indanacetaldehyde | 13.58 g | C1C(CC2=CC=CC=C12)CC=O | C11H12O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 2-indanecrotonate | 19.22 g | C1C(CC2=CC=CC=C12)C/C=C/C(=O)OCC | C15H18O2
